US06720351B2
To a refluxing mixture of commercially available ethyl 5-nitro-1H-indole-2-carboxylate (420 g) and potassium carbonate (272.6 g) in acetonitrile (3360 mL) was added a solution of methyl p-toluenesulfonate (367.3 g) in acetonitrile (630 mL), and the resulting mixture refluxed for 18 hours. The mixture was then cooled to 20° C. over 3 hours and water (4200 mL) added over a 3 hour period. The product was granulated, filtered, washed with a 50/50 mixture of demineralized water and acetonitrile (630 mL), demineralized water (420 mL) and then with ethanol (420 mL), and dried, yielding the product ethyl 1-methyl-5-nitro-1H-indole-2-carboxylate (436.1 g, 96%).

reactant | ethyl 5-nitro-1H-indole-2-carboxylate | 420 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10N2O4
reactant | potassium carbonate | 272.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl p-toluenesulfonate | 367.3 g | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | water | 4200 mL | O | H2O
solvent | acetonitrile | 3360 mL | C(C)#N | C2H3N
solvent | acetonitrile | 630 mL | C(C)#N | C2H3N
product | ethyl 1-methyl-5-nitro-1H-indole-2-carboxylate | 436.1 g, 96% | CN1C(=CC2=CC(=CC=C12)[N+](=O)[O-])C(=O)OCC | C12H12N2O4
